.SUBCKT gf180mcu_fd_sc_mcu9t5v0__oai32_4 A1 A2 A3 B1 B2 ZN VDD VSS
*.PININFO A1:I A2:I A3:I B1:I B2:I ZN:O VDD:P VDD:P VSS:P VSS:G
*.EQN ZN=!(((A1 + A2) + A3) * (B1 + B2))
M_i_3_3 VSS A2 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_4_3 net_0 A3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_4_2 VSS A3 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3_2 net_0 A2 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3_1 VSS A2 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_4_1 net_0 A3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_4_0 VSS A3 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3_0 net_0 A2 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_3 VSS A1 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_2 net_0 A1 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_1 VSS A1 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_0 net_0 A1 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1_3 ZN B2 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_3 net_0 B1 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_2 ZN B1 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1_2 net_0 B2 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1_1 ZN B2 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_1 net_0 B1 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_0 ZN B1 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1_0 net_0 B2 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_8_3 net_3_0 A2 net_2 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_9_3 VDD A3 net_3_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_9_2 net_3_1 A3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_8_2 net_2 A2 net_3_1 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_8_1 net_3_2 A2 net_2 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_9_1 VDD A3 net_3_2 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_9_0 net_3_3 A3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_8_0 net_2_0 A2 net_3_3 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_3 ZN A1 net_2_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_2 net_2 A1 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_1 ZN A1 net_2 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_0 net_2 A1 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_3 net_1_0 B2 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_5_3 ZN B1 net_1_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_5_2 net_1_1 B1 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_2 VDD B2 net_1_1 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_1 net_1_2 B2 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_5_1 ZN B1 net_1_2 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_5_0 net_1_3 B1 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_0 VDD B2 net_1_3 VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
